datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:72][C:61](/[CH:10]=[C:11](/C)[O-:12])=[O:62].CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1>>CC[O:72][C:61]([CH:10]([C:11](C)=[O:12])[CH:20]([C-:21]1[S:32](=[O:33])(=[O:34])C2=C(C=CC=C2)[S:42]1(=[O:43])=[O:44])[C:51]1=[CH:52][CH:53]=[C:54](OC)[CH:56]=[CH:55]1)=[O:62] 10,11=10,20;12=11,12;20,21=21"
"CC1=C[C:61]2=[C:62](C=C1)[NH:12][C:11](C)=[N:10]2.Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>CC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[C:11](C)[N:10]2[C:20]1([C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1 10,11=10,20;12=11,12"
"CC1(C)[O:64][C:13]([O-:14])=[C:12]([CH:11]([H:10])[C:92]2=[CH:93][CH:94]=[C:95]([O:96]C)[CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1>>CC1(C)[O:64][C:13](=[O:14])[C:12](=[CH:11][C:92]2=[CH:93][CH:94]=[C:95]([O:96]C)[CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.[S:10]=[C:11]1[CH:12]=[CH:13]/[C:14](=[N+:15](\[O-:16])[O-:66])[CH:73]=[CH:72]1>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([S:10][C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:66])[CH:73]=[CH:72]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
C1C[S:31][CH+:20][S:41]C1.O=[N+]([O-])[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1>>O=[N+]([O-])[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O:10][CH:20]2[S:31]CCC[S:41]2)=[CH:62]1 10=20
"C1CC[CH:63]=[CH:62][CH:11]=[CH:10]C1.CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32]>>CC[O:33][C:31]([C:20]1([CH:10]2CCCC[CH:63]=[CH:62][CH+:11]2)CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1.C[S+:61](C)[CH:10]=[C:11]=[N-:12]>>C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH:20]([CH:10]([C:11]#[N:12])[S+:61](C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1 10,11=10,20;12=11,12"
"CC1=CC=C([B-:11]2([C:10]3=CC=C(C)S3)[O:12]C(C)(C)C(C)(C)[O:62]2)C=C1.CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CC1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)C=C1.CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([C:10]2=CC=C(C)S2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[C:11](=[CH2:10])[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54>>CN1C(=O)C(CC2=CNC3=CC=CC=C23)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][C+:11](C)[CH2:62][Fe-2:63]2345(C#[O+])(C#[O+])C6C2C3C4C65)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C[N:62]1[N:61]=[N:10][C:71]2=[C:72]1C=CC=C2.F[C:20]1=[C:21](F)[C:22](=[O:23])[C:30](F)=[C:31](F)[C:32]1=[O:33]>>C[N:62]1[N:61]=[N+:10]([C:20]2(F)[C:21](F)=[C:22]([O-:23])[C:30](F)=[C:31](F)[C:32]2=[O:33])[C:71]2=[C:72]1C=CC=C2 10=20;20,21=21,22;22,23=23"
"C[Si](C)(C)[N:62]1[CH:61]=[N:10][CH:64]=[CH:63]1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>C[Si](C)(C)[N:62]1[CH:61]=[N+:10]([CH:20]2CC3C4C5C2[Fe-3:21]345(C#[O+])(C#[O+])C#[O+])[CH:64]=[CH:63]1 10=20;20,21=21"
"COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1.FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)(=[O:62])=[O:72]>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([CH:10]([S:61](C(F)(F)F)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10=20;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.C[N+](C)(C)[BH2-:11][H:10]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.C[N+](C)(C)[BH2:11] 10,11=10,20;20,21=21,22;22,23=23"
"C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].[CH-:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:74](=[O:75])[O-:95])[CH:83]=[CH:82]1>>C[C:22](=[CH:21][CH:20]([CH:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:74](=[O:75])[O-:95])[CH:83]=[CH:82]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
